US04472433
A solution of potassium hydroxide (3 g) in methanol (30 ml) was added to a solution of ethyl 2-[2-nitro-3-(o-tolyloxy)phenyl]acetate (3.9 g) in methanol (30 ml), and the mixture was stirred at room temperature for an hour. The reaction mixture was evaporated in vacuo, and the residue was dissolved in water. The aqueous solution was washed with diethyl ether and acidified with conc. hydrochloric acid. The precipitating crystals were collected by filtration and recrystallized from ethanol to give 2-[2-nitro-3-(o-tolyloxy)phenyl]acetic acid (1.5 g). mp 158°-160° C.

reactant | potassium hydroxide | 3 g | [OH-].[K+]
reactant | ethyl 2-[2-nitro-3-(o-tolyloxy)phenyl]acetate | 3.9 g | [N+](=O)([O-])C1=C(C=CC=C1OC1=C(C=CC=C1)C)CC(=O)OCC | C17H17NO5
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
product | 2-[2-nitro-3-(o-tolyloxy)phenyl]acetic acid | 1.5 g | [N+](=O)([O-])C1=C(C=CC=C1OC1=C(C=CC=C1)C)CC(=O)O | C15H13NO5
